US07807671B2
To the compound tert-butyl 4-(1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl)piperazine-1-carboxylate (4 g) dissolved in ethanol (40 ml), and hydrazine hydrate (1.17 g) was added and the reaction mixture was refluxed for 6 hrs with vigorous stirring. The progress of reaction was monitored by TLC. After consumption of starting material, the reaction mixture was cooled to room temperature and concentrated under reduced pressure to afford tert-butyl 4-(3-phenyl-1H-pyrazol-4-yl)piperazine-1-carboxylate.

reactant | tert-butyl 4-(1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl)piperazine-1-carboxylate | 4 g | CN(C=C(C(C1=CC=CC=C1)=O)N1CCN(CC1)C(=O)OC(C)(C)C)C | C20H29N3O3
reactant | hydrazine hydrate | 1.17 g | O.NN
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | tert-butyl 4-(3-phenyl-1H-pyrazol-4-yl)piperazine-1-carboxylate | C1(=CC=CC=C1)C1=NNC=C1N1CCN(CC1)C(=O)OC(C)(C)C | C18H24N4O2
